US06284755B1
2-[3-(3-ethyl-azepan-3-yl)-phenoxy]-4-imidazol-1-ylmethyl-benzonitrile was acylated with Boc2O to give 3-[3-(2-cyano-5-imidazol-1-ylmethyl-phenoxy)-phenyl]-3-ethyl-azepane-1-carboxylic Acid-tert-butyl Ester

reactant | 2-[3-(3-ethyl-azepan-3-yl)-phenoxy]-4-imidazol-1-ylmethyl-benzonitrile | C(C)C1(CNCCCC1)C=1C=C(OC2=C(C#N)C=CC(=C2)CN2C=NC=C2)C=CC1 | C25H28N4O
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 3-[3-(2-cyano-5-imidazol-1-ylmethyl-phenoxy)-phenyl]-3-ethyl-azepane-1-carboxylic Acid-tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC(CCCC1)(CC)C1=CC(=CC=C1)OC1=C(C=CC(=C1)CN1C=NC=C1)C#N | C30H36N4O3
